US04853392
2-(2-Methylbenzimidazol-1-yl)-2-methylpropanol 2(a) 2-(1,1-dimethyl-2-hydroxyethyl)aminoaniline
2-(1,1-dimethyl-2-hydroxyethyl)aminonitrobenzene (10 g) in ethanol (200 ml) was hydrogenated at 50 p.s.i. (345 kPa) over 5% Pd/C (0.5 g) for 2 hours. The catalyst was filtered off and the solvent removed under reduced pressure yielding the title compound as a yellow foam 8.4 g (98%).

reactant | 2-(1,1-dimethyl-2-hydroxyethyl)aminonitrobenzene | 10 g | CC(CO)(C)NC1=C(C=CC=C1)[N+](=O)[O-] | C10H14N2O3
reactant | ethanol | 200 ml | C(C)O | C2H6O
catalyst | Pd/C | 0.5 g | [Pd] | Pd
product | 2-(2-Methylbenzimidazol-1-yl)-2-methylpropanol | 8.4 g, 98% | CC1=NC2=C(N1C(CO)(C)C)C=CC=C2 | C12H16N2O
